US07846960B2
{4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic Acid Methyl Ester
To an ambient temperature solution of {4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine (82 mg, 0.204 mmol) in acetonitrile (3 mL) are added (4-bromomethyl-phenyl)-acetic acid methyl ester (52 mg, 0.214 mmol) and cesium carbonate (133 mg, 0.408 mmol). The reaction mixture is heated to 80° C. overnight. The reaction mixture is concentrated under reduced pressure. The residue is chromatographed (SiO2 40 g, 0% to 20% EtOAc/Hex). Reversed phase HPLC (C18 OBD 19×100 mm, 30 to 70% ACN/water (0.1% TFA) at 20 mL/min) is employed to remove approximately 10% starting amine present to yield the title compound (78 mg, 68%). LC-ES/MS m/e 566.3 (M+1), 95%

reactant | {4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amine | 0.204 mmol, 82 mg | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)NC)C)C(C)C | C21H23Cl2N3O
reactant | (4-bromomethyl-phenyl)-acetic acid methyl ester | 0.214 mmol, 52 mg | COC(CC1=CC=C(C=C1)CBr)=O | C10H11BrO2
reactant | cesium carbonate | 0.408 mmol, 133 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | {4-[({4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-phenyl}-acetic Acid Methyl Ester | 78 mg, 68% | COC(CC1=CC=C(C=C1)CN(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C31H33Cl2N3O3
